US05354880
Preparation of 4-Amino-3,3-dimethylbutyltrimethoxysilane
In accordance with the procedure in Example 7, 3-cyano-3-methylbutyltrimethoxysilane (600 grams, 2.76 moles) was hydrogenated in the presence of 10.0 grams of ammonia and 8.0 grams of nickel (5%) on kieselguhr. The yield after distillation (boiling point, 68° C. at 0.25 mm Hg) was 590 grams of 4-amino-3,3-dimethylbutyltrimethoxysilane (96.6%). The material was characterized by infra-red, 1H and 13C NMR spectroscopy.

reactant | 3-cyano-3-methylbutyltrimethoxysilane | 2.76 moles, 600 grams | C(#N)C(CC[Si](OC)(OC)OC)(C)C | C9H19NO3Si
reactant | ammonia | 10.0 grams | N | H3N
catalyst | nickel | 8.0 grams | [Ni] | Ni
product | 4-Amino-3,3-dimethylbutyltrimethoxysilane | NCC(CC[Si](OC)(OC)OC)(C)C | C9H23NO3Si
